US07629285B2
Alternatively, the nitrogen functional groups were introduced from the polymeric resins such as melamine-formaldehyde and urea-formaldehyde. The resins were synthesized by the addition-condensation reactions. Firstly, melamine/urea and formaldehyde were mixed in aqueous media in the molar ratio 1:3/1:2. NaOH was added to this mixture to bring the pH to 11-12 at 60° C., which initiates the addition reaction to form methylolurea/methylolmelamine intermediates. Then the pH was adjusted to around 4-5 using H2SO4 to initiate the condensation/polymerization reaction resulting in the respective resins. The sample was dried using a rotary evaporator at 80° C. under vacuum, and heat-treated in an Ar atmosphere at 800° C. for 1 h.

reactant | melamine-formaldehyde | C=O.N1=C(N)N=C(N)N=C1N
reactant | urea-formaldehyde | C=O.NC(=O)N
reactant | melamine urea | N1=C(N)N=C(N)N=C1N.NC(=O)N
reactant | formaldehyde | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
product | methylolurea methylolmelamine | C(O)NC(=O)N.C(O)NC1=NC(=NC(=N1)N)N | InChI=1S/C4H8N6O.C2H6N2O2/c5-2-8-3(6)10-4(9-2)7-1-11;3-2(6)4-1-5/h11H,1H2,(H5,5,6,7,8,9,10);5H,1H2,(H3,3,4,6)
